US07368572B2
Ethyl 5-(2-methoxyethoxy)-1H-indole-2-carboxylate (2.0 g, 7.4 mmol) in THF (20 ml) was treated with a solution of LiOH•H2O (0.62 g, 14.8 mmol) in water (10 ml). Ethanol was added until a homogenous solution formed and stirring was continued for 16 h. The reaction mixture was diluted with water (50 ml) and the organic solvents were removed in vacuo. The pH was adjusted to 4 with 1M aqueous HCl and the aqueous solution was extracted with dichloromethane. The combined organic extracts were washed with brine, dried over sodium sulfate, and concentrated in vacuo to provide 5-(2-methoxyethoxy)-1H-indole-2-carboxylic acid (1.7 g, 7.2 mmol) as a white solid. The crude acid was directly used without further purification.

reactant | Ethyl 5-(2-methoxyethoxy)-1H-indole-2-carboxylate | 7.4 mmol, 2.0 g | COCCOC=1C=C2C=C(NC2=CC1)C(=O)OCC | C14H17NO4
reactant | LiOH•H2O | 14.8 mmol, 0.62 g | O[Li].O
reactant | Ethanol | C(C)O | C2H6O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 5-(2-methoxyethoxy)-1H-indole-2-carboxylic acid | 7.2 mmol, 1.7 g | COCCOC=1C=C2C=C(NC2=CC1)C(=O)O | C12H13NO4
